US05077409
2-(Trimethylstannyl)thiazole
To 99.99 ml of n-butyl lithium in hexane, dissolved in 200 ml of ether is added dropwise with stirring over 1 hour, at -78° C., a solution of 16 g of thiazole in 100 ml of ether over 1 hour. A solution of 49.81 g of trimethyltin chloride in 100 ml of ether is added dropwise over 20 minutes followed by additional stirring for 1 hour. The reaction mixture is poured into saturated sodium bicarbonate and the organic layer separated, dried and evaporated to a residue. The residue is vacuum distilled to give 33.4 g of the desired product as a colorless liquid, B.P. 60°-65° C./0.7 mm.

reactant | n-butyl lithium | 99.99 ml | C(CCC)[Li]
reactant | thiazole | 16 g | S1C=NC=C1 | C3H3NS
reactant | trimethyltin chloride | 49.81 g | C[Sn](C)(C)Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2-(Trimethylstannyl)thiazole | 33.4 g | C[Sn](C=1SC=CN1)(C)C | InChI=1S/C3H2NS.3CH3.Sn/c1-2-5-3-4-1;;;;/h1-2H;3*1H3;
